* /home/fossee/esim-workspace/half_adder/half_adder.cir

.include half_adder.sub
x1 net-_u1-pad3_ net-_u1-pad4_ net-_u2-pad1_ net-_u2-pad2_ half_adder
* u1  in1 in2 net-_u1-pad3_ net-_u1-pad4_ adc_bridge_2
* u2  net-_u2-pad1_ net-_u2-pad2_ sum cout dac_bridge_2
v1 in1 gnd  dc 5
v2 in2 gnd  dc 0
r1  sum gnd 1k
r2  cout gnd 1k
* u3  in1 plot_v1
* u4  in2 plot_v1
* u5  sum plot_v1
* u6  cout plot_v1
a1 [in1 in2 ] [net-_u1-pad3_ net-_u1-pad4_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ ] [sum cout ] u2
* Schematic Name: adc_bridge_2, NgSpice Name: adc_bridge
.model u1 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: dac_bridge_2, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(sum)
plot v(cout)
.endc
.end
